US05194437
4-(benzocyclobutan-1-yl)-butyl mesylate was prepared, in a yield of 96%, by treating 4-(benzocyclobutan-1-yl)butanol (oil) with CH3SO2Cl in the presence of triethylamine in methylene chloride.

reactant | 4-(benzocyclobutan-1-yl)butanol | C1(CC2=C1C=CC=C2)CCCCO | C12H16O
reactant | CH3SO2Cl | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-(benzocyclobutan-1-yl)-butyl mesylate | yield of 96% | S(C)(=O)(=O)OCCCCC1CC2=C1C=CC=C2 | C13H18O3S
